US06670388B1
f) 5-Hydroxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic Acid Ethyl Ester
To 5-allyloxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic acid ethyl ester (1.36 g, 3.8 mmol) was added a mixture of dichloromethane:morpholine:water (100:10:2, 50 mL) followed by the addition of tetrakis(triphenylphosphine) palladium (0) (300 mg). After stilling at room temperature for 18 h, the reaction was partitioned between dichloromethane and water. The organic layer was washed with HCl (3N), NaHCO3, brine and dried over Na2SO4. Purification by flash column chromatography (silica gel, 10-30% EtOAc/hexanes) yielded the desired product as a off-white solid (1.3 g, 86%).

reactant | 5-allyloxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic acid ethyl ester | 3.8 mmol, 1.36 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC=C)CCC1=CSC=C1 | C20H21NO3S
catalyst | tetrakis(triphenylphosphine) palladium (0) | 300 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane morpholine water | 50 mL | ClCCl.N1CCOCC1.O
product | 5-Hydroxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic Acid Ethyl Ester | 1.3 g, 86% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)O)CCC1=CSC=C1 | C17H17NO3S
